US05604241
(i) 5-Ethyl-4-methoxy-o-anisaldehyde
To a solution of hexamethylenetetramine (HMTA)(6.75 g, 48.1 mmol) in trifluoroacetic acid (TFA)(40 ml) heated at reflux was added a solution of 4-ethoxy-1,3-dimethoxybenzene, (4.0 g, 24.1 mmol) in TFA (40 ml) dropwise over 90 min. The reaction mixture was heated at reflux for 2 h. The dark solution was concentrated in vacuo with mild heating leaving a dark red syrup. Ice water was added to the syrup until it became cloudy, then stirred at room temperature for 20 min. The mixture was basified with solid K2CO3, then stirred at room temperature for 20 min, and extracted with CH2Cl2 (200 ml×4). The combined CH2Cl2 solution was washed with water and brine, dried over MgSO4, and concentrated in vacuo to give a crude title compound (4.46 g) as a orange solid. The crude product was recrystallized from hexane-ethyl acetate to give title compound (2.51 g, 53.7%) as a pale yellow solid. 1H-NMR δ: 10.30 (s, 1H), 7.63 (s, 1H), 6.40 (s, 1H), 3.93 (s, 3H), 3.92 (s, 3H), 2.56 (q, J=7.3 Hz, 2H), 1.16 (t, J=7.3 Hz, 3H) IR(KBr, cm-1): 1662, 1610, 1578, 1505, 1488, 1477, 1457, 1437, 1408, 1354, 1320, 1279, 1261, 1216, 1189, 1111, 1025, 908, 825, 697.

reactant | hexamethylenetetramine | 48.1 mmol, 6.75 g | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | 4-ethoxy-1,3-dimethoxybenzene | 24.1 mmol, 4.0 g | C(C)OC1=C(C=C(C=C1)OC)OC | C10H14O3
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | trifluoroacetic acid | 40 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | TFA | 40 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 5-Ethyl-4-methoxy-o-anisaldehyde | 2.51 g, 53.7% | C(C)C1=C(C=C(C(C=O)=C1)OC)OC | C11H14O3
